US04272536
Under the same reaction conditions as described in section (A) of Example 7, N-methyl-N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-chloroacetamide was reacted with potassium phthalimide to obtain N-methyl-N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-phthalimidoacetamide in a yield of 83%.

reactant | N-methyl-N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-chloroacetamide | CN(C(CCl)=O)C12C3CCC(C(CCC1)C2)C3 | C14H22ClNO
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
product | N-methyl-N-(1-tricyclo[4.3.1.12,5 ]undecyl)-2-phthalimidoacetamide | yield of 83% | CN(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C21C3CCC(C(CCC2)C1)C3 | C22H26N2O3
